US08222248B2
3-{4-[6-(4-tert-Butylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-2,2-dimethylpropionic acid
The title compound was prepared from 3,4-diamino-N-(4-tert-butylphenyl)-benzamide and 3-(4-formyl-3,5-dimethylphenyl)-2,2-dimethylpropionic acid methyl ester analogous to Example 6-26. 1H NMR (Methanol-d4, 400 MHz): δ 8.26 (s, 1H), 7.93 (d, 1H), 7.72 (m, 1H), 7.65 (m, 2H), 7.44 (m, 2H), 7.05 (s, 2H), 2.89 (s, 2H), 2.15 (s, 6H), 1.35 (s, 9H), 1.2 (s, 6H). MS (m/z) 498.2 (M+1); Retention time: 1.47 min (Method 10).

reactant | 3,4-diamino-N-(4-tert-butylphenyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=CC1N | C17H21N3O
reactant | 3-(4-formyl-3,5-dimethylphenyl)-2,2-dimethylpropionic acid methyl ester | COC(C(CC1=CC(=C(C(=C1)C)C=O)C)(C)C)=O | C15H20O3
product | 3-{4-[6-(4-tert-Butylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenyl}-2,2-dimethylpropionic acid | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CC(C(=O)O)(C)C)C)C1 | C31H35N3O3
